US09260413B2
To a solution of 133 g (4.30 mmol) 5-methoxy-3-methyl-2-(4-phenoxyphenyl)pyrimidin-4(3H)-one in 25 ml CH2Cl2 was added 34.4 ml (34.4 mmol) of a 1 M solution of BBr3 in CH2Cl2. The reaction mixture was stirred for 1 h, cooled to 0° C., quenched with 100 ml MeOH, and concentrated in vacuo. Purification by HPLC gave 945 mg (70% yield) of 5-hydroxy-3-methyl-2-(4-phenoxyphenyl)pyrimidin -4(3H)-one. LCMS [M+H]+=295.1.

reactant | 5-methoxy-3-methyl-2-(4-phenoxyphenyl)pyrimidin-4(3H)-one | 4.30 mmol, 133 g | COC=1C(N(C(=NC1)C1=CC=C(C=C1)OC1=CC=CC=C1)C)=O | C18H16N2O3
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | 5-hydroxy-3-methyl-2-(4-phenoxyphenyl)pyrimidin -4(3H)-one | 945 mg, 70% yield | OC=1C(N(C(=NC1)C1=CC=C(C=C1)OC1=CC=CC=C1)C)=O | C17H14N2O3
